US05494949
55.5 g (0.2 mol) of dimethyl N-butenoylaminoterephthalate are mixed with 175 mg of hexachloroplatinic acid (as a catalyst) and 85 g (0.8 mol; excess) of methyldimethoxysilane under an inert gas. Gas bubbles which form on the crystals of the catalyst indicate the immediate start of the reaction. The mixture is stirred up at short intervals of time, and after about half an hour is heated to the reflux temperature (about 60° C.) and kept under reflux for 25 hours. The reaction mixture is concentrated down to a deep-brown oil in vacuo. The oil is taken up in 400 ml of n-hexane, whereupon the product crystallizes out in the form of yellow crystals. 4-(Methyldimethoxysilyl)butanoic acid terephthalic acid dimethyl ester)amide is obtained by dissolving in hot n-hexane, crystallization in the cold and drying of the crystals in vacuo.

reactant | dimethyl N-butenoylaminoterephthalate | 0.2 mol, 55.5 g | C(C=CC)(=O)NC1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C14H15NO5
reactant | methyldimethoxysilane | 0.8 mol, 85 g | C[SiH](OC)OC | C3H10O2Si
catalyst | hexachloroplatinic acid | 175 mg | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 4-(Methyldimethoxysilyl)butanoic acid terephthalic acid dimethyl ester | COC(C1=CC=C(C(=O)OC)C=C1)=O.C[Si](CCCC(=O)O)(OC)OC | InChI=1S/C10H10O4.C7H16O4Si/c1-13-9(11)7-3-5-8(6-4-7)10(12)14-2;1-10-12(3,11-2)6-4-5-7(8)9/h3-6H,1-2H3;4-6H2,1-3H3,(H,8,9)
